US04665075
To a stirred mixture of 6.25 parts of [1-(2-aminoethyl)-4-piperidinyl](4-fluorophenyl)methanone and 135 parts of tetrahydrofuran was added dropwise a solution of 7.5 parts of ethyl 2-isothiocyanato-4-(phenylmethoxy)benzoate in 45 parts of tetrahydrofuran. Upon completion, stirring was continued for 4 hours at room temperature and for 30 minutes at reflux temperature. After cooling, the product was filtered off and crystallized from a mixture of N,N-dimethylformamide and water. The product was filtered off and dried, yielding 3.8 parts (29%) of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,3-dihydro-7-(phenylmethoxy)-2-thioxo-4(1H)-quinazolinone; 236.0° C. (dec.) (6).

reactant | [1-(2-aminoethyl)-4-piperidinyl](4-fluorophenyl)methanone | NCCN1CCC(CC1)C(=O)C1=CC=C(C=C1)F | C14H19FN2O
reactant | ethyl 2-isothiocyanato-4-(phenylmethoxy)benzoate | N(=C=S)C1=C(C(=O)OCC)C=CC(=C1)OCC1=CC=CC=C1 | C17H15NO3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,3-dihydro-7-(phenylmethoxy)-2-thioxo-4(1H)-quinazolinone | 29% | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC(=CC=C3C2=O)OCC2=CC=CC=C2)=S)C=C1 | C29H28FN3O3S
